US05495024
Using (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol (587 mg) and 6-methylpurine (353 mg), (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-[6-methyl-9(9H)-purinyl]ethyl]oxirane (383 mg) was obtained as a white powder by the same way as in Reference Example 2.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 587 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 6-methylpurine | 353 mg | CC1=C2NC=NC2=NC=N1 | C6H6N4
product | (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-[6-methyl-9(9H)-purinyl]ethyl]oxirane | 383 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@@H](C)N1C2=NC=NC(=C2N=C1)C | C16H14F2N4O
